US04871730
To a solution of benzhydryl 7-amino-3-[(Z)-2-(3-pyridyl)vinylthio]-3-cephem-4-carboxylate (1.50 g) and 2-(2-tritylaminothiazol-4-yl)-3-hydroxypropionic acid (1.42 g) in tetrahydrofuran was added N,N'-dicyclohexyl-carbodiimide (925 mg) under ice-cooling. The resultant mixture was stirred for 1 hour at the same temperature and stirred for 2 hours at ambient temperature. The resultant precipitate was filtered off. To the filtrate was added ethyl acetate (100 ml) and the organic layer was separated, washed with a saturated aqueous solution of sodium chloride (50 ml) and dried over magnesium sulfate. The solvent was distilled off and the residue was subjected to column chromatography on silica gel (120 g) and eluted with a mixture of ethyl acetate and diisopropyl ether (3:1). The fractions containing the object compound were combined and concentrated in vacuo to give benzhydryl 7-[2-(2-tritylaminothiazol-4-yl)-3-hydroxypropionamido]-3-[(Z)-2-(3-pyridyl)vinylthio]-3-cephem-4-carboxylate (1.10 g).

reactant | benzhydryl 7-amino-3-[(Z)-2-(3-pyridyl)vinylthio]-3-cephem-4-carboxylate | 1.50 g | NC1[C@@H]2N(C(=C(CS2)S\C=C/C=2C=NC=CC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C27H23N3O3S2
reactant | 2-(2-tritylaminothiazol-4-yl)-3-hydroxypropionic acid | 1.42 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)O)CO | C25H22N2O3S
reactant | N,N'-dicyclohexyl-carbodiimide | 925 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | benzhydryl 7-[2-(2-tritylaminothiazol-4-yl)-3-hydroxypropionamido]-3-[(Z)-2-(3-pyridyl)vinylthio]-3-cephem-4-carboxylate | 1.10 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)S\C=C/C=2C=NC=CC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)CO | C52H43N5O5S3
